US04657842
112.1 g (0.5 mole) of 2-hydroxyanthraquinone are dissolved in 500 ml of N-methylpyrrolidone, and 12 g (0.5 mole) of sodium hydride are added in portions. When the evolution of gas has ended, 46.37 ml (0.5 mole) of epichlorohydrin are added dropwise at 70° C. and stirring is continued at 70° C. for a further 8 hours. 1.5 liters of water are then added, the mixture is filtered and the filter cake is dried in vacuo. After drying, the product is boiled up again in 1 liter of N,N-dimethylformamide with 10 g of active charcoal and filtered hot. The crystals which precipitate on cooling to 0° C. are separated off by filtration and dried under a high vacuum. 69.45 g (50.57% of theory) of 2-anthraquinonyl glycidyl ether are obtained; melting point: 162°-167° C.

reactant | 2-hydroxyanthraquinone | 0.5 mole, 112.1 g | OC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C14H8O3
reactant | sodium hydride | 0.5 mole, 12 g | [H-].[Na+]
reactant | epichlorohydrin | 0.5 mole, 46.37 ml | C(Cl)C1CO1 | C3H5ClO
reactant | water | 1.5 liters | O | H2O
solvent | N-methylpyrrolidone | 500 ml | CN1C(CCC1)=O | C5H9NO
product | 2-anthraquinonyl glycidyl ether | 69.45 g, 50.57% | C(C1CO1)OC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C17H12O4
